US05403816
Preparation of methyl 3-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-[2-(phenoxy)ethylamino]picolinate (Compound No. 64)
1.12 g (2 mmol) of methyl 3-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-[N-(2-phenoxy)ethyl-N-benzyloxycarbonylamino]picolinate was catalytically reduced in 30 ml of methanol in the presence of 1 g of palladium carbon (10%). The catalyst was filtered off, and the filtrate was distilled under reduced pressure at a low temperature of not higher than 40° C., and the residual oily product was purified by column chromatography to obtain the desired product as colorless transparent oily product.

reactant | methyl 3-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-[N-(2-phenoxy)ethyl-N-benzyloxycarbonylamino]picolinate | 2 mmol, 1.12 g | COC1=NC(=NC(=C1)OC)OC=1C(=NC(=CC1)N(C(=O)OCC1=CC=CC=C1)CCOC1=CC=CC=C1)C(=O)OC | C29H28N4O8
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium carbon | 1 g | [C].[Pd]
product | methyl 3-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-[2-(phenoxy)ethylamino]picolinate | yield: 70.4% | COC1=NC(=NC(=C1)OC)OC=1C(=NC(=CC1)NCCOC1=CC=CC=C1)C(=O)OC | C21H22N4O6
